US04575378
Stage (a) Preparation of β-chloroethyl N-(5-chloro-4-hydroxy-2-nitrophenyl)-carbamate.
21 ml of β-chloroethyl chloroformate are added dropwise to 37.7 g (0.2 mole) of 6-chloro-3-nitro-4-aminophenol and 12 g of sodium carbonate in 130 ml of dioxane at 70° C. and the mixture is then heated at 90° C. for a further hour. After addition of 500 ml of water and stirring until cold, the mixture is extracted 3 times with methylene chloride and the extracts are dried and concentrated completely, after which 56 g (95%) of the product are obtained as a dark red oil, which crystallises completely, after some time, by trituration with toluene.

reactant | β-chloroethyl chloroformate | 21 ml | ClC(=O)OCCCl | C3H4Cl2O2
reactant | 6-chloro-3-nitro-4-aminophenol | 0.2 mole, 37.7 g | ClC1=CC(=C(C=C1O)[N+](=O)[O-])N | C6H5ClN2O3
reactant | sodium carbonate | 12 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 500 ml | O | H2O
solvent | dioxane | 130 ml | O1CCOCC1 | C4H8O2
product | β-chloroethyl N-(5-chloro-4-hydroxy-2-nitrophenyl)-carbamate | 56 g, 95% | ClC=1C(=CC(=C(C1)NC(OCCCl)=O)[N+](=O)[O-])O | C9H8Cl2N2O5
